US08008293B2
Synthesis of (3R,5R)-3-acetyl-5-(3,4,5-trifluorophenyl)morpholin-4-carboxylic acid benzyl ester
A tetrahydrofuran solution (15 mL) of dimethyl sulfoxide (0.22 mL) was cooled to −78° C., and oxalyl chloride (246 μL) was added dropwise into the resultant solution. The reaction solution was stirred for 5 minutes at the same temperature, and a tetrahydrofuran (5 mL) solution of (3R,5R)-3-((R)-1-hydroxyethyl)-5-(3,4,5-trifluorphenyl)morpholin-4-carboxylic acid benzyl ester (880 mg) was added dropwise. The resultant reaction solution was stirred for 1 hour at the same temperature, and triethylamine (1.54 mL) was added. The reaction solution was returned to room temperature, and stirring was continued for 1 hour. Ammonium chloride aqueous solution and ethyl acetate were added to the reaction solution, and the organic layer was partitioned, and the resultant was dried over anhydrous magnesium sulfate. The solvent was removed under a vacuum, and the resultant was purified by silica gel column chromatography (heptane/ethyl acetate), and the title compound (800 mg) was obtained. The physical property values are as follows.

reactant | oxalyl chloride | 246 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3R,5R)-3-((R)-1-hydroxyethyl)-5-(3,4,5-trifluorphenyl)morpholin-4-carboxylic acid benzyl ester | 880 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](COC[C@H]1C1=CC(=C(C(=C1)F)F)F)[C@@H](C)O | C20H20F3NO4
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1.54 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | 0.22 mL | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (3R,5R)-3-acetyl-5-(3,4,5-trifluorophenyl)morpholin-4-carboxylic acid benzyl ester | 800 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](COC[C@H]1C1=CC(=C(C(=C1)F)F)F)C(C)=O | C20H18F3NO4
